US05177217
Dimethyl N-(p-toluenesulfonyl)-L-aspartate, (2.0 g; J. M. Theobald, M. W. Williams, G. T. Young, J. Chem. Soc., 1927 (1963)) was dissolved in tetrahydrofuran (20 mL) and NaBH4 (1.5 g) and LiCl (1.5 g) added and the mixture stirred at 0° C. for 60 to 64 hours. Ten percent hydrochloric acid (10 mL) was slowly added (caution!gas evolution) and the mixture extracted with ethyl acetate (3×20 mL). The combined organic extracts were concentrated and the residue dried under vacuum to give (S)-2-(p-toluene-sulfonylamino)-1,4-butanediol, 2, as an off-white solid (1.95 g; HPLC: 97.7%).

reactant | Dimethyl N-(p-toluenesulfonyl)-L-aspartate | C1(=CC=C(C=C1)S(=O)(=O)N[C@@H](CC(=O)OC)C(=O)OC)C | C13H17NO6S
reactant | NaBH4 | 1.5 g | [BH4-].[Na+]
reactant | LiCl | 1.5 g | [Li+].[Cl-]
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-2-(p-toluene-sulfonylamino)-1,4-butanediol | C1(=CC=C(C=C1)S(=O)(=O)N[C@H](CO)CCO)C | C11H17NO4S
